US07989633B2
3-Amino-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one
3-Methyl-5-[4-(trifluoromethyl)phenyl]isoxazole (1.8 g, 7.92 mmol) is introduced into 20 ml of ethanol, platinum(IV) oxide catalyst (180 mg) is added, and the mixture is then hydrogenated under atmospheric pressure hydrogen for 12 h. The catalyst is filtered off, and the filtrate is concentrated. 1.72 g (94% of theory) of the title compound are obtained as a white solid.

reactant | 3-Methyl-5-[4-(trifluoromethyl)phenyl]isoxazole | 7.92 mmol, 1.8 g | CC1=NOC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H8F3NO
reactant | hydrogen | [H][H] | H2
catalyst | platinum(IV) oxide | 180 mg | [Pt](=O)=O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Amino-1-[4-(trifluoromethyl)phenyl]but-2-en-1-one | NC(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C | C11H10F3NO
